US08236826B2
Production of 3-(4-(5-amino-4-methylpyridin-2-yloxy)phenyl)-1-(4-piperonylpiperazin-1-yl)propan-1-one
The 3-(4-(4-methyl-5-nitropyridin-2-yloxy)phenyl)-1-(4-piperonylpiperazin-1-yl)propan-1-one was dissolved in a mixed solvent consisting of ethanol (4 mL) and dioxane (1 mL). To this solution was added 10% palladium-carbon (0.034 g), and the resulting solution was subjected to catalytic reduction for 8 hours at atmospheric pressure and room temperature. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (dichloromethane:methanol=20:1), to thereby yield 0.22 g of the title compound.

reactant | 3-(4-(4-methyl-5-nitropyridin-2-yloxy)phenyl)-1-(4-piperonylpiperazin-1-yl)propan-1-one | CC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=C(C=C1)CCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C27H28N4O6
reactant | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.034 g | [C].[Pd]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 3-(4-(5-amino-4-methylpyridin-2-yloxy)phenyl)-1-(4-piperonylpiperazin-1-yl)propan-1-one | NC=1C(=CC(=NC1)OC1=CC=C(C=C1)CCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1)C | C27H30N4O4
